US06833462B2
A 500 ml flask was flushed with nitrogen to displace the air with nitrogen, and was charged with 43.0 g (0.50 mol) of methacrylic acid, 0.95 g (5 mmol) of p-toluenesulfonic acid monohydrate (supplied by Wako Pure Chem. Ind. Ltd.) and 100 g of toluene. Separately 74.0 g (0.50 mol) of 2-methyleneadamantane, prepared by the same procedures as described in Reference Example 1, was dissolved in 100 g of toluene. The obtained solution of 2-methyleneadamantane in toluene was dropwise added to the content in the flask over a period of about 3 hours, while the content was maintained at a reaction temperature of about 5° C. Then the content was stirred for 5 hours at the same temperature. After completion of the reaction, the residual catalyst was neutralized by adding 40.0 g (50 mmol) of a 5% aqueous sodium hydroxide solution, and the neutralized liquid was washed with an aqueous saturated sodium chloride solution. The thus-obtained organic phase was subjected to column chromatography, and further, analyzed by NMR and mass spectrometry. Thus, 106.2 g (yield: 90.8%) of the object 2-methyl-2-adamantyl methacrylate was obtained.

reactant | methacrylic acid | 0.50 mol, 43.0 g | C(C(=C)C)(=O)O | C4H6O2
reactant | p-toluenesulfonic acid monohydrate | 5 mmol, 0.95 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 2-methyleneadamantane | 0.50 mol, 74.0 g | C=C1C2CC3CC(CC1C3)C2 | C11H16
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | 100 g | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 g | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-2-adamantyl methacrylate | yield: 90.8% | C(C(=C)C)(=O)OC1(C2CC3CC(CC1C3)C2)C | C15H22O2
